US07119207B2
7-[(2S,3S)-(1-Benzooxazol-2-yl-2-phenyl-piperidin-3-ylamino)-methyl]-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
To 6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one dihydrochloride (50 mg, 0.11 mmol), freshly ground potassium carbonate (61 mg, 0.44 mmol), and catalytic KI in 3 mL of 1,4-dioxane was added 2-chlorobenzoxazole (126 mg, 0.11 mmol). After heating at reflux for 5 days, the reaction was cooled and partitioned between ethyl acetate and water. The organic portion was separated, dried over MgSO4, filtered, and concentrated. Silica gel chromatography (99:1 chloroform/methanol followed by 3:1 ethyl acetate/hexane) gave 31 mg (56%) of the title compound as a light brown oil. MS (M+H)+=497.2; 1H NMR (400 MHz, CDCl3): δ 1.75–1.85 (m, 1H), 1.85–1.95 (m, 3H), 2.55–2.60 (t, J=7 Hz, 2H), 2.80–2.85 (t, J=7 Hz, 2H), 3.15–3.25 (m, 1H), 3.30 (s, 3H), 3.30–3.40 (t, J=13 Hz, 1H), 3.71 (s, 3H), 3.82–3.92 (q, J=13.5 Hz, 2H), 4.16–4.21 (dd, J=13 Hz, 3.8 Hz, 1H), 5.74–5.76 (d, J=5.6 Hz, 1H), 6.62 (s, 1H), 6.90 (s, 1H), 6.95–6.99 (t, J=8.5 Hz, 1H), 7.10–7.14 (t, J=8.5 Hz, 1H), 7.19–7.21 (d, J=7.9 Hz, 1H), 7.24–7.28 (m, 4H), 7.68–7.70 (d, J=7.5 Hz, 2H); 13C NMR (100 MHz, CDCl3): δ 24.2, 25.5, 26.8, 29.6, 31.7, 41.4, 46.0, 55.5, 56.9, 58.5, 108.5, 110.2, 116.0, 116.4, 120.3, 123.8, 125.7, 126.8, 127.5, 128.3, 129.3, 133.7, 137.7, 143.2, 148.5, 152.9, 162.3, 169.9. The dihydrochloride salt was prepared by the addition of 2 M HCl in ether to a solution of the product in ethyl acetate. Concentration gave a white solid (Mp=181–183° C.).

reactant | 6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one dihydrochloride | 0.11 mmol, 50 mg | Cl.Cl.COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1)C)=O
reactant | potassium carbonate | 0.44 mmol, 61 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorobenzoxazole | 0.11 mmol, 126 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 7-[(2S,3S)-(1-Benzooxazol-2-yl-2-phenyl-piperidin-3-ylamino)-methyl]-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 31 mg, 56% | O1C(=NC2=C1C=CC=C2)N2[C@H]([C@H](CCC2)NCC2=C(C=C1CCC(N(C1=C2)C)=O)OC)C2=CC=CC=C2 | C30H32N4O3
